US06245763B1
1. 3-(3-Methylphenylsulfonyl)amino-6-methyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone
To a solution of 3-amino-6-methyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone (1.42 g, 5.88 mmol), as prepared in step 3 of Example 1, and N-methylmorpholine (1.29 mL, 11.76 mmol) in methylene chloride (40 mL) was added 3-methylbenzenesulfonyl chloride (1.12 g, 5.88 mmol) at 0° C. The reaction mixture was stirred at room temperature overnight. Additional methylene chloride (60 mL) was added. The resulting methylene chloride solution was washed with saturated NaHCO3 (2×50 mL), 10% citric acid (3×50 mL) and brine (50 mL), and dried over Na2SO4. After evaporating the solvent, the residue was purified by flash column chromatography (5 to 10% ethyl acetate in methylene chloride) to give the title compound as a white solid (2.1 g, 91%). 1H-NMR (300 MHz, CDCl3) 8 7.63 (m, 2H), 7.55 (br s, 1H), 7.42 (d, 1H, J=8 Hz), 7.32 (m, 2H), 6.01 (d, 1H, J=8 Hz), 4.64 (s, 2H), 2.37 (s, 3H), 2.20 (s, 3H), 1.43 (s, 9H).

reactant | 3-amino-6-methyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone | 5.88 mmol, 1.42 g | NC=1C(N(C(=CC1)C)CC(=O)OC(C)(C)C)=O | C12H18N2O3
reactant | N-methylmorpholine | 11.76 mmol, 1.29 mL | CN1CCOCC1 | C5H11NO
reactant | 3-methylbenzenesulfonyl chloride | 5.88 mmol, 1.12 g | CC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO2S
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-Methylphenylsulfonyl)amino-6-methyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone | 2.1 g, 91% | CC=1C=C(C=CC1)S(=O)(=O)NC=1C(N(C(=CC1)C)CC(=O)OC(C)(C)C)=O | C19H24N2O5S
